US05025031
3-(4-Chlorophenoxy)-1,2-propanediol
A mixture of 25.7 g (3.2 mole) of 4-chlorophenol, 18.5 g (0.25 mole) of glycidol and 1 ml of pyridine was stirred and heated at 85°-90° C. overnight. The pot residue was partitioned between ethyl ether and water. The organic layer was washed with water and brine, dried over sodium sulfate, and concentrated to give a gum which crystallized when triturated with petroleum ether (boiling point range, 30°-60° C.). The solid was collected by filtration and recrystallized from isopropyl ether to yield 27.2 g (67%) of off-white solid, mp 73°-75° C. (lit1 mp 77° C.).

reactant | 4-chlorophenol | 3.2 mole, 25.7 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | glycidol | 0.25 mole, 18.5 g | C1C(O1)CO | C3H6O2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Chlorophenoxy)-1,2-propanediol | 27.2 g, 67% | ClC1=CC=C(OCC(CO)O)C=C1 | C9H11ClO3
